US05364871
A solution of bromine (1.56 g) in acetic acid (5 ml) was added dropwise to a solution of 2-acetyl-6-(acetylaminomethyl)pyridine (1.87 g) and 30 weight % hydrogen bromide-acetic acid solution (4.2 ml) in a mixture of acetic acid (40 ml) and methanol (10 ml) at ambient temperature with stirring. The mixture was warmed to 60° to 70° C. and stirred for two hours. The solvent was evaporated in vacuo and the residue was triturated with diisopropyl ether to give 2-(acetylaminomethyl)-6-bromoacetylpyridine hydrobromide (3.78 g).

reactant | bromine | 1.56 g | BrBr | Br2
reactant | 2-acetyl-6-(acetylaminomethyl)pyridine | 1.87 g | C(C)(=O)C1=NC(=CC=C1)CNC(C)=O | C10H12N2O2
reactant | hydrogen bromide acetic acid | 4.2 ml | Br.C(C)(=O)O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 10 ml | CO | CH4O
product | 2-(acetylaminomethyl)-6-bromoacetylpyridine hydrobromide | 3.78 g | Br.C(C)(=O)NCC1=NC(=CC=C1)C(CBr)=O | InChI=1S/C10H11BrN2O2.BrH/c1-7(14)12-6-8-3-2-4-9(13-8)10(15)5-11;/h2-4H,5-6H2,1H3,(H,12,14);1H
